US07754737B2
To a mixture of tert-butyl (S)-3-cyclopentyl-1-(methylamino)propan-2-ylcarbamate (900 mg, 3.52 mmol) and Et3N (1.5 mL, 10.6 mmol) in CH2Cl2 (10 mL) was added dropwise a solution of CbzCl (720 mg, 4.22 mmol) in CH2Cl2 (5 mL) at 0° C. After stirring for an additional 2 h, water (30 mL) was added and the mixture was extracted with CH2Cl2 (2×10 mL). The combined organic layers were washed with brine, dried over MgSO4 and concentrated. The residue was purified by silica chromatography to obtain benzyl (S)-2-(t-butoxycarbonylamino)-3-cyclopentylpropylmethylcarbamate (550 mg, 40%) as an oil. 1H NMR (CDCl3, 400 MHz) δ 1.10 (m, 2H), 1.43 (s, 9H), 1.49 (m, 3H), 1.60 (m, 3H), 1.81 (m, 3H), 2.96 (s, 3H), 3.15 (m, 1H), 3.40 (m, 1H), 3.83 (brs, 1H), 4.57 (brs, 1H), 5.16 (s, 2H), 7.33 (m, 5H).

reactant | tert-butyl (S)-3-cyclopentyl-1-(methylamino)propan-2-ylcarbamate | 3.52 mmol, 900 mg | C1(CCCC1)C[C@@H](CNC)NC(OC(C)(C)C)=O | C14H28N2O2
reactant | Et3N | 10.6 mmol, 1.5 mL | CCN(CC)CC | C6H15N
reactant | CbzCl | 4.22 mmol, 720 mg | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
reactant | water | 30 mL | O | H2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | benzyl (S)-2-(t-butoxycarbonylamino)-3-cyclopentylpropylmethylcarbamate | 550 mg, 40% | C(C)(C)(C)OC(=O)N[C@H](CN(C(OCC1=CC=CC=C1)=O)C)CC1CCCC1 | C22H34N2O4
